US05576320
c) 1-Benzyl-3-(tert-butoxycarbonylaminomethyl)-pyrrolidine
A solution of 3.9 g (0.0179 mol) of di-tert-butyl dicarbonate in 8 ml of CHCl3 is added very slowly and with stirring to a solution of 3.4 g (0.0179 mol) of 1-benzyl-3-aminomethylpyrrolidine in 34 ml of anhydrous CHCl3 under nitrogen atmosphere. The mixture is left stirred under nitrogen overnight at ambient temperature. The solvent is evaporated in vacuum and 5.5 g of an oil are obtained, which is purified by chromatography on a column, eluted with a 98/2 CH2Cl2/MeOH mixture. Yield: 2.5 g (48%).

reactant | di-tert-butyl dicarbonate | 0.0179 mol, 3.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-benzyl-3-aminomethylpyrrolidine | 0.0179 mol, 3.4 g | C(C1=CC=CC=C1)N1CC(CC1)CN | C12H18N2
solvent | CHCl3 | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 34 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-3-(tert-butoxycarbonylaminomethyl)-pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)CNC(=O)OC(C)(C)C | C17H26N2O2
